US07307094B2
A 250-mL single-neck round bottomed flask equipped with a magnetic stirrer was charged with methyl 4-chlorosalicylate (25.0 g, 134 mmol) followed by concentrated sulfuric acid (73 mL) and the resulting suspension cooled to 0° C. using an ice bath. Concentrated nitric acid (6.20 mL, 147 mmol) was then added and the reaction stirred for 1 h at 0° C. After this time, the reaction was poured into ice and the resulting precipitate collected by vacuum filtration. The filter cake was washed with water (20 mL) and then re-crystallized from hot ethanol (100 mL) to afford methyl 4-chloro-3-nitrosalicylate in 52% yield (16.0 g) as white solid: 1H NMR (300 MHz, CDCl3) δ 8.15 (d, J=2.7 Hz, 1H), 8.11 (d, J=2.7 Hz, 1H), 4.03 (s, 3H); MS (ESI) m/z 232 [M+H]+.

reactant | methyl 4-chlorosalicylate | 134 mmol, 25.0 g | ClC=1C=C(C(C(=O)OC)=CC1)O | C8H7ClO3
reactant | sulfuric acid | 73 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 147 mmol, 6.20 mL | [N+](=O)(O)[O-] | HNO3
product | methyl 4-chloro-3-nitrosalicylate | 52% yield | ClC=1C(=C(C(C(=O)OC)=CC1)O)[N+](=O)[O-] | C8H6ClNO5
